US07125901B2
To an ice-cold mixture of ethyl 2-amino-1,3-thiazole-4-carboxylate hydrobromide (80 g), pyridine (52.5 g) and dichloromethane (800 ml) was added acetyl chloride (27.3 g) dropwise at 0° C., and the mixture was stirred for 30 minutes at the same temperature. The reaction mixture was washed with water (500 ml), dried over sodium sulfate and concentrated in vacuo. The crystalline residue was collected and washed with ethyl acetate to give ethyl 2-(acetylamino)-1,3-thiazole-4-carboxylate (60 g).

reactant | ethyl 2-amino-1,3-thiazole-4-carboxylate hydrobromide | 80 g | Br.NC=1SC=C(N1)C(=O)OCC
reactant | pyridine | 52.5 g | N1=CC=CC=C1 | C5H5N
reactant | acetyl chloride | 27.3 g | C(C)(=O)Cl | C2H3ClO
solvent | dichloromethane | 800 ml | ClCCl | CH2Cl2
product | ethyl 2-(acetylamino)-1,3-thiazole-4-carboxylate | 60 g | C(C)(=O)NC=1SC=C(N1)C(=O)OCC | C8H10N2O3S
